US08497271B2
Part A. [(R)-2-Hydroxy-1-(4-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester
To 1.88 g (12.4 mmol) of benzylcarbamate suspended in 16 mL n-propanol was added 12.2 mL 1 N NaOH (12.2 mmol), and freshly prepared tBuOCl (1.4 mL, 12.2 mmol) and then stirred for 8 min at rt. It was then cooled to 0° C. followed by the addition of the catalyst (DHQD)2PHAL (156 mg, 0.2 mmol) dissolved in 14 mL n-PrOH. This was followed by the addition of the styrene (538 uL, 4 mmol) also dissolved in 20 mL n-PrOH, and stirred for another 8 min. Then K2OsO4.2H2O (58.8 mg, 0.16 mmol) was added directly, and the resulting mixture stirred for 1.5 hr at 0° C. Several color changes were observed, from brown, to bright red, to orange and then finally light yellow. Dilute with EtOAc, and quench with aq. Na2S2O3. The organic layer was separated and the aqueous layer extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, and concentrated. It was purified by flash column 20-40% EtOAc/hexanes to obtain 761 mg (63%) of the product.

reactant | benzylcarbamate | 12.4 mmol, 1.88 g | C(C1=CC=CC=C1)NC([O-])=O
reactant | NaOH | 12.2 mmol, 1 N, 12.2 mL | [OH-].[Na+]
reactant | tBuOCl | 12.2 mmol, 1.4 mL | C(C)(C)(C)OCl | C4H9ClO
reactant | styrene | 4 mmol, 538 uL | C=CC1=CC=CC=C1 | C8H8
reactant | n-propanol | 16 mL | C(CC)O | C3H8O
reactant | n-PrOH | 14 mL | C(CC)O | C3H8O
reactant | n-PrOH | 20 mL | C(CC)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | (DHQD)2PHAL | 0.2 mmol, 156 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
product | [(R)-2-Hydroxy-1-(4-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester | 761 mg, 63% | C(C1=CC=CC=C1)OC(N[C@@H](CO)C1=CC=C(C=C1)OC)=O | C17H19NO4
